US07851473B2
(2) 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-(5-pyridin-3-yl-1,3,4-oxadiazol-2-yl)piperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl (5-pyridin-3-yl-1,3,4-oxadiazol-2-yl)carbamate (249 mg, 0.738 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and diisopropylethylamine (0.129 ml, 0.728 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 3 hours and half. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Hexane was poured to the residue, and crystals were separated by filtration, which was recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 110 mg (34.2%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl (5-pyridin-3-yl-1,3,4-oxadiazol-2-yl)carbamate | 0.738 mmol, 249 mg | N1=CC(=CC=C1)C1=NN=C(O1)NC(OCC(Cl)(Cl)Cl)=O | C10H7Cl3N4O3
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.728 mmol, 0.129 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-(5-pyridin-3-yl-1,3,4-oxadiazol-2-yl)piperazine-1-carboxamide | 110 mg, 34.2% | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC=1OC(=NN1)C=1C=NC=CC1 | C20H18N8O2S
